US07160875B2
2-Methoxy-malonic acid monomethyl ester was coupled with 2,2,3,3,3-pentafluoro-propylamine in analogy to the description in Example 73 to yield 2-methoxy-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid methyl ester as colourless oil,

reactant | 2-Methoxy-malonic acid monomethyl ester | COC(C(C(=O)O)OC)=O | C5H8O5
reactant | 2,2,3,3,3-pentafluoro-propylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
product | 2-methoxy-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid methyl ester | COC(C(C(=O)NCC(C(F)(F)F)(F)F)OC)=O | C8H10F5NO4
